* Schematics Netlist *



R_R4         $N_0002 $N_0001  1k  
C_C2         $N_0001 $N_0003  330n  
R_R1         0 $N_0004  18k  
R_R2         $N_0004 $N_0003  10k  
X_U1A         $N_0001 $N_0004 $N_0005 $N_0006 $N_0003 LM324
V_V3         0 $N_0006 DC 5  
V_V2         $N_0005 0 DC 5  
C_C1         0 $N_0001  330n  
R_R5         $N_0007 $N_0002  1k  
V_V1         $N_0007 0  
+SIN 0 0.5 100 0 0 0
