* Schematics Subcircuit *

.SUBCKT test 

C_C1         $N_0001 $N_0002  470n  
R_R1         $N_0003 $N_0001  15k  
R_R2         0 $N_0001  15k  
R_R3         $N_0004 0  18k  
R_R4         $N_0003 $N_0004  10k  
R_R5         $N_0005 $N_0003  1k  
R_R6         $N_0006 $N_0005  1k  
R_R7         $N_0007 0  18k  
R_R8         $N_0008 $N_0007  10k  
C_C2         0 $N_0005  330n  
C_C3         $N_0005 $N_0008  330n  
C_C4         0 $N_0001  470n  
X_U3A         $N_0006 $N_0007 $N_0009 $N_0010 $N_0008 LM324
X_U2A         $N_0002 $N_0004 $N_0011 $N_0012 $N_0003 LM324
V_V6         $N_0011 $N_0012 DC 5  
V_V5         $N_0009 $N_0010 DC 5  

.ENDS    test

